US05192765
A mixture of 2-methyl-2-methylaminopropanol (1.5 g), 3,4-methylenedioxybenzyl chloride (2.5 g) and potassium carbonate (2 g) in acetonitrile (50 ml) was heated under reflux for 4 hours and evaporated. The residue was partitioned between ether and 2M hydrochloric acid and the acidic layer was washed with methylene chloride, basified with 10% aqueous sodium carbonate solution and extracted into methylene chloride. The organic extract was dried over magnesium sulphate and evaporated to give essentially pure 2-methyl-2-[N-(3,4-methylenedioxybenzyl)-N-methylamino]propanol as a yellow oil (2.0 g, 58%) which was used directly in Example 34. A small portion of this product was dissolved in ether and the solution was treated with excess saturated ethereal hydrogen chloride and evaporated. The residue was triturated with acetone/ethyl acetate to give the title compound as a colourless solid, m.p. 157°-159°.

reactant | 2-methyl-2-methylaminopropanol | 1.5 g | CC(CO)(C)NC | C5H13NO
reactant | 3,4-methylenedioxybenzyl chloride | 2.5 g | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-methyl-2-[N-(3,4-methylenedioxybenzyl)-N-methylamino]propanol | 2.0 g, 58% | CC(CO)(C)N(C)CC1=CC2=C(C=C1)OCO2 | C13H19NO3
